US07696200B2
4-(5-Chloro-2-methoxy-benzenesulfonyl)-4H-benzo[1,4]oxazine-6-carboxylic acid phenylamide
Reaction of 4-(5-chloro-2-methoxy-benzenesulfonyl)-4H-benzo[1,4]oxazine-6-carboxylic acid with aniline in accordance with the general method of example 30, step 4 produced the title compound. Orange solid, MS (ISP)=455.2 (M−H)−.

reactant | 4-(5-chloro-2-methoxy-benzenesulfonyl)-4H-benzo[1,4]oxazine-6-carboxylic acid | ClC=1C=CC(=C(C1)S(=O)(=O)N1C=COC2=C1C=C(C=C2)C(=O)O)OC | C16H12ClNO6S
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 4-(5-Chloro-2-methoxy-benzenesulfonyl)-4H-benzo[1,4]oxazine-6-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)C=1C=CC2=C(N(C=CO2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1 | C22H17ClN2O5S
